US06562811B1
To a suspension of NaH (60%, 340 mg, 8.38 mmol) in THF (10 mL) was added dropwise a solution of tert-butyl 3-{[methoxy(methyl)amino]carbonyl}cyclohexylcarbamate (2.00 g, 6.98 mmol) in THF (10 mL)followed by methyl iodide (1.09 g, 7.68 mmol). The mixture was stirred at 60° C. for 0.5 hr. After cooled to room temperature, the mixture was poured into water and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=1/1) to give tert-butyl N-[3-(N-methoxy-N-methyl-carbamoyl)cyclohexyl]-N-methylcarbamate as a colorless oil (1.94 g, yield; 93%).

reactant | NaH | 8.38 mmol, 340 mg | [H-].[Na+]
reactant | tert-butyl 3-{[methoxy(methyl)amino]carbonyl}cyclohexylcarbamate | 6.98 mmol, 2.00 g | CON(C(=O)C1CC(CCC1)NC(OC(C)(C)C)=O)C | C14H26N2O4
reactant | methyl iodide | 7.68 mmol, 1.09 g | CI | CH3I
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[3-(N-methoxy-N-methyl-carbamoyl)cyclohexyl]-N-methylcarbamate | 1.94 g, yield; 93% | CON(C(=O)C1CC(CCC1)N(C(OC(C)(C)C)=O)C)C | C15H28N2O4
